US09034882B2
To a solution of methyl 2-(7-chloro-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (100 mg, 0.316 mmol) and 4,4-dimethylpiperidine, HCl (47.3 mg, 0.316 mmol) in NMP (Volume: 3 mL) was added DIEA (0.220 mL, 1.263 mmol). The resulting mixture was stirred at r.t for 3 hrs. then purified by Pre-HPLC to afford methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (108 mg, 0.269 mmol, 85% yield). 1H-NMR (500 MHz, CDCl3) δ 1.14 (6 H, s), 1.68 (2 H, t), 2.63 (3 H, s), 3.62 (2 H, t), 3.82 (3 H, s), 7.55-7.57 (3 H, m), 8.24-8.26 (2 H, m).

reactant | methyl 2-(7-chloro-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 0.316 mmol, 100 mg | ClC1=C(C(=NC=2N1N=C(N2)C2=CC=CC=C2)C)CC(=O)OC | C15H13ClN4O2
reactant | DIEA | 1.263 mmol, 0.220 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 0.269 mmol, 108 mg, 85% yield | CC1(CCN(CC1)C1=C(C(=NC=2N1N=C(N2)C2=CC=CC=C2)C)CC(=O)OC)C | C22H27N5O2
